US09416135B2
To a 50 mL three-necked flask containing (R)-2-tert-butyl 8-methyl 1-isopropyl-7-(methylsulfonyl)-3,4-dihydrobenzo[4,5]imidazo[1,2-a]pyrazine-2,8(1H)-dicarboxylate (250 mg, 0.554 mmol, from preparation 2) in DCM (5 mL) was added DIBAL-H (1.70 mL, 1.67 mmol, 1.0 M in toluene) dropwise at −78° C. under N2. The mixture was stirred at −78° C. for 3 h. The reaction was quenched with sat. aq. ammonium chloride (10 mL) at −78° C. The aqueous layer was extracted with EtOAc (3×20 mL). The combined organic layers were washed with water (15 mL) and brine, and then dried over anhydrous Na2SO4. The mixture was filtered and the filtrate was evaporated under reduced pressure. The residue was purified by column chromatography on silica gel eluting with PE:EtOAc 8:1˜2:1 to give (R)-tert-butyl 8-(hydroxymethyl)-1-isopropyl-7-(methylsulfonyl)-3,4-dihydrobenzo[4,5]imidazo[1,2-a]pyrazine-2(1H)-carboxylate (175 mg, 74.1% yield) as a white solid.

reactant | (R)-2-tert-butyl 8-methyl 1-isopropyl-7-(methylsulfonyl)-3,4-dihydrobenzo[4,5]imidazo[1,2-a]pyrazine-2,8(1H)-dicarboxylate | 0.554 mmol, 250 mg | C(C)(C)[C@@H]1C=2N(CCN1C(=O)OC(C)(C)C)C1=C(N2)C=C(C(=C1)S(=O)(=O)C)C(=O)OC | C21H29N3O6S
reactant | DIBAL-H | 1.67 mmol, 1.0 M, 1.70 mL | CC(C)C[AlH]CC(C)C
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | (R)-tert-butyl 8-(hydroxymethyl)-1-isopropyl-7-(methylsulfonyl)-3,4-dihydrobenzo[4,5]imidazo[1,2-a]pyrazine-2(1H)-carboxylate | 175 mg, 74.1% yield | OCC=1C(=CC2=C(N=C3N2CCN([C@@H]3C(C)C)C(=O)OC(C)(C)C)C1)S(=O)(=O)C | C20H29N3O5S
